US04513002
A mixture of 208 g of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one, 2 l of ethanol, 200 g of sodium hydroxide and 300 g of zinc powder is heated to boiling under reflux while stirring for 2 hours. The still warm mixture is filtered over kieselguhr while back-washing with about 1 l of methanol. After concentration of the yellow solution to about 1 l, the thick paste obtained is partitioned between 2 l of chloroform and 1 l of water. The alkaline-aqueous phase is adjusted to pH 3 to 4 with about 400 ml of concentrated hydrochloric acid while cooling with ice and extracted with 1 l of chloroform. The combined chloroform extracts are washed with water until they are neutral and subsequently dried over magnesium sulfate in the presence of a small amount of active carbon. After filtration and concentration of the clear, light yellowish solution, there is obtained 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol as an almost white, crystalline mass with a melting point of 89-91°.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 208 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
reactant | sodium hydroxide | 200 g | [OH-].[Na+]
catalyst | zinc | 300 g | [Zn] | Zn
solvent | ethanol | 2 l | C(C)O | C2H6O
product | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)O | C15H14O
